US04469868
D-alanine methyl ester hydrochloride (6 g, 0.043 mol) is dissolved in 30 ml of cold (5° C.) dimethylformamide and 7 ml (0.05 mol) of triethylamine is added dropwise. After stirring 15 minutes, 6 g of triethylamine hydrochloride is removed by filtering. To the filtrate is added 7 g (0.035 mol) of 7-chloro-1,3,5-trimethyl-1H-pyrazolo-[4,3-d]pyrimidine and another 6 ml of triethylamine. The mixture is stirred at 50°-55° C. for 60 hours and evaporated in vacuo. The residue is dissolved in 100 ml of methylene dichloride, washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and evaporated in vacuo to give 7.6 g of slightly impure (R)-2-[1,3,5-trimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl]aminopropionic acid, methyl ester, mp 68°-70° C. from ether as a dihydrate.

reactant | D-alanine methyl ester hydrochloride | 0.043 mol, 6 g | Cl.COC([C@H](N)C)=O
reactant | triethylamine | 0.05 mol, 7 ml | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-1,3,5-trimethyl-1H-pyrazolo-[4,3-d]pyrimidine | 0.035 mol, 7 g | ClC=1C2=C(N=C(N1)C)C(=NN2C)C | C8H9ClN4
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (R)-2-[1,3,5-trimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl]aminopropionic acid, methyl ester | CN1N=C(C=2N=C(N=C(C21)N[C@@H](C(=O)OC)C)C)C | C12H17N5O2
